US08372839B2
2.1: Ethyl 5-Azidovalerate
Ethyl 5-bromovalerate (2.1 g; 10 mmol; Aldrich) was added to a stirred suspension of sodium azide (1.3 g, 20 mmol; Fisher) in 5 ml dimethylformamide and 5 ml water, and the reaction mixture was heated 12 h at 80° Cs. The reaction was partitioned between diethyl ether (100 ml) and water (100 ml), and the resulting organic layer was washed with water (100 ml) and brine (100 ml), dried over sodium sulfate, and dried in vacuo. Yield: 1.6 g (9.3 mmol, 95% yield).

reactant | Ethyl 5-bromovalerate | 10 mmol, 2.1 g | BrCCCCC(=O)OCC | C7H13BrO2
reactant | sodium azide | 20 mmol, 1.3 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 5 ml | O | H2O
product | Ethyl 5-Azidovalerate | 95% yield | N(=[N+]=[N-])CCCCC(=O)OCC | C7H13N3O2
